### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/AffineSpace/Simplex/Basic): membership of interior of a face

### PR DESCRIPTION
**Pull request by jsm28**
Add lemmas about when an affine combination of all the vertices of a simplex lies in the `interior` or `closedInterior` of a face.

Feel free to golf, these lemmas really ought to be a lot simpler to prove.

---

- [x] depends on: #26822

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/Independent.lean [hunk 1]
```diff
@@ -351,6 +351,25 @@ lemma AffineIndependent.eq_zero_of_affineCombination_mem_affineSpan {p : ι →
   rw [Set.indicator_apply_eq_zero] at hi'
   exact hi' (Finset.mem_coe.2 hifs)
 
+lemma AffineIndependent.indicator_eq_of_affineCombination_comp_embedding_eq {ι₂ : Type*} {p : ι → P}
+    (ha : AffineIndependent k p) {s₁ : Finset ι} {s₂ : Finset ι₂} {w₁ : ι → k} {w₂ : ι₂ → k}
+    (hw₁ : ∑ i ∈ s₁, w₁ i = 1) (hw₂ : ∑ i ∈ s₂, w₂ i = 1) (e : ι₂ ↪ ι)
+    (h : s₁.affineCombination k p w₁ = s₂.affineCombination k (p ∘ e) w₂) :
+    Set.indicator (↑s₁) w₁ = Set.indicator (s₂.map e) (extend e w₂ 0) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/AffineSpace/Independent.lean]: What do you think of swapping the two sides here? That's what the name suggests to me...

File: Mathlib/LinearAlgebra/AffineSpace/Independent.lean [hunk 2]
```diff
@@ -351,6 +351,25 @@ lemma AffineIndependent.eq_zero_of_affineCombination_mem_affineSpan {p : ι →
...
+  refine ha.indicator_eq_of_affineCombination_eq s₁ (s₂.map e) _ _ hw₁ ?_ h
+  rw [sum_map]
+  convert hw₂ with i hi
+  exact e.injective.extend_apply _ _ _
+
+lemma AffineIndependent.indicator_eq_of_affineCombination_comp_embedding_eq_of_fintype [Fintype ι]
+    {ι₂ : Type*} [Fintype ι₂] {p : ι → P} (ha : AffineIndependent k p) {w₁ : ι → k} {w₂ : ι₂ → k}
+    (hw₁ : ∑ i, w₁ i = 1) (hw₂ : ∑ i, w₂ i = 1) (e : ι₂ ↪ ι)
+    (h : Finset.univ.affineCombination k p w₁ = Finset.univ.affineCombination k (p ∘ e) w₂) :
+    w₁ = Set.indicator (Set.range e) (extend e w₂ 0) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/AffineSpace/Independent.lean]: Idem dito, I guess

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean [hunk 3]
```diff
@@ -357,6 +357,114 @@ lemma closedInterior_subset_affineSpan {n : ℕ} {s : Simplex k P n} :
   · rintro rfl
     exact ⟨1, by simp [affineCombination_apply]⟩
 
+lemma affineCombination_mem_interior_face_iff_mem_Ioo {n : ℕ} (s : Simplex k P n)
+    {fs : Finset (Fin (n + 1))} {m : ℕ} (h : #fs = m + 1) {w : Fin (n + 1) → k}
+    (hw : ∑ i, w i = 1) : Finset.univ.affineCombination k s.points w ∈ (s.face h).interior ↔
+      (∀ i ∈ fs, w i ∈ Set.Ioo 0 1) ∧ (∀ i ∉ fs, w i = 0) := by
+  refine ⟨fun hi ↦ ?_, fun ⟨hii, hi0⟩ ↦ ?_⟩
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean:384]: I think the following two proofs share a lot of common structure. Can that be abstracted out?
Eg, in a few minutes I got this, but I guess more could be done.
```diff
diff --git a/Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean b/Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean
index 5806ae9272c..dd4bad27ef9 100644
--- a/Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean
+++ b/Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean
@@ -357,6 +357,27 @@ lemma closedInterior_subset_affineSpan {n : ℕ} {s : Simplex k P n} :
   · rintro rfl
     exact ⟨1, by simp [affineCombination_apply]⟩
 
+omit [PartialOrder k] in
+theorem quux {n : ℕ} (s : Simplex k P n) {fs : Finset (Fin (n + 1))} {m : ℕ}
+    (h : #fs = m + 1) {w : Fin (n + 1) → k} (hw : ∑ i, w i = 1)
+    (w' : Fin (m + 1) → k) (I : Set k) (hI : ∀ (i : Fin (m + 1)), w' i ∈ I)
+    (hw' : ∑ i, w' i = 1)
+    (he : (affineCombination k univ s.points) w = (affineCombination k univ (s.face h).points) w') :
+    (∀ i ∈ fs, w i ∈ I) ∧ ∀ i ∉ fs, w i = 0 := by
+  have he' := s.independent.indicator_eq_of_affineCombination_comp_embedding_eq_of_fintype
+    hw hw' (fs.orderEmbOfFin h).toEmbedding he
+  simp_rw [he']
+  constructor
+  · intro i hi
+    simp only [RelEmbedding.coe_toEmbedding, range_orderEmbOfFin, mem_coe, hi,
+      Set.indicator_of_mem]
+    rw [← mem_coe, ← fs.range_orderEmbOfFin h] at hi
+    obtain ⟨j, rfl⟩ := hi
+    rw [(fs.orderEmbOfFin h).injective.extend_apply]
+    exact hI _
+  · intro i hi
+    simp [hi]
+
 lemma affineCombination_mem_interior_face_iff_mem_Ioo {n : ℕ} (s : Simplex k P n)
     {fs : Finset (Fin (n + 1))} {m : ℕ} (h : #fs = m + 1) {w : Fin (n + 1) → k}
     (hw : ∑ i, w i = 1) : Finset.univ.affineCombination k s.points w ∈ (s.face h).interior ↔
@@ -367,19 +388,7 @@ lemma affineCombination_mem_interior_face_iff_mem_Ioo {n : ℕ} (s : Simplex k P
         ((s.face h).interior_subset_closedInterior.trans closedInterior_subset_affineSpan)
     obtain ⟨w', hw', he⟩ := eq_affineCombination_of_mem_affineSpan_of_fintype h'
     rw [he, affineCombination_mem_interior_iff hw'] at hi
-    have he' := s.independent.indicator_eq_of_affineCombination_comp_embedding_eq_of_fintype
-      hw hw' (fs.orderEmbOfFin h).toEmbedding he
-    simp_rw [he']
-    constructor
-    · intro i hi
-      simp only [RelEmbedding.coe_toEmbedding, range_orderEmbOfFin, mem_coe, hi,
-        Set.indicator_of_mem]
-      rw [← mem_coe, ← fs.range_orderEmbOfFin h] at hi
-      obtain ⟨j, rfl⟩ := hi
-      rw [(fs.orderEmbOfFin h).injective.extend_apply]
-      exact hi _
-    · intro i hi
-      simp [hi]
+    apply quux s h hw w' _ hi hw' he
   · let w' : Fin (m + 1) → k := w ∘ fs.orderEmbOfFin h
     have hw' : ∑ i, w' i = 1 := by
       rw [Fintype.sum_of_injective _ (fs.orderEmbOfFin h).injective w' w (fun i hi ↦ ?_)
@@ -409,17 +418,7 @@ lemma affineCombination_mem_closedInterior_face_iff_mem_Icc {n : ℕ} (s : Simpl
     rw [he, affineCombination_mem_closedInterior_iff hw'] at hi
     have he' := s.independent.indicator_eq_of_affineCombination_comp_embedding_eq_of_fintype
       hw hw' (fs.orderEmbOfFin h).toEmbedding he
-    simp_rw [he']
-    constructor
-    · intro i hi
-      simp only [RelEmbedding.coe_toEmbedding, range_orderEmbOfFin, mem_coe, hi,
-        Set.indicator_of_mem]
-      rw [← mem_coe, ← fs.range_orderEmbOfFin h] at hi
-      obtain ⟨j, rfl⟩ := hi
-      rw [(fs.orderEmbOfFin h).injective.extend_apply]
-      exact hi _
-    · intro i hi
-      simp [hi]
+    apply quux s h hw w' _ hi hw' he
   · let w' : Fin (m + 1) → k := w ∘ fs.orderEmbOfFin h
     have hw' : ∑ i, w' i = 1 := by
       rw [Fintype.sum_of_injective _ (fs.orderEmbOfFin h).injective w' w (fun i hi ↦ ?_)
```

File: Mathlib/LinearAlgebra/AffineSpace/Independent.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/LinearAlgebra/AffineSpace/Independent.lean]: Done, in both cases.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean (hunk 3 above)
Comment (jsm28) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean:384]: I've applied that change, though the trickier question may be what can be abstracted out *of more general use outside of these specific proofs* (`indicator_eq_of_affineCombination_comp_embedding_eq_of_fintype` being the result of such abstraction on an earlier version where the proofs were even longer).

File: Mathlib/LinearAlgebra/AffineSpace/Independent.lean [hunk 4]
```diff
@@ -351,6 +351,25 @@ lemma AffineIndependent.eq_zero_of_affineCombination_mem_affineSpan {p : ι →
...
   exact hi' (Finset.mem_coe.2 hifs)
 
+lemma AffineIndependent.indicator_eq_of_affineCombination_comp_embedding_eq {ι₂ : Type*} {p : ι → P}
+    (ha : AffineIndependent k p) {s₁ : Finset ι} {s₂ : Finset ι₂} {w₁ : ι → k} {w₂ : ι₂ → k}
+    (hw₁ : ∑ i ∈ s₁, w₁ i = 1) (hw₂ : ∑ i ∈ s₂, w₂ i = 1) (e : ι₂ ↪ ι)
+    (h : s₁.affineCombination k p w₁ = s₂.affineCombination k (p ∘ e) w₂) :
+    Set.indicator (s₂.map e) (extend e w₂ 0) = Set.indicator (↑s₁) w₁ := by
+  have hw₂e : extend e w₂ 0 ∘ e = w₂ := extend_comp e.injective _ _
+  rw [← hw₂e, ← affineCombination_map] at h
+  refine (ha.indicator_eq_of_affineCombination_eq s₁ (s₂.map e) _ _ hw₁ ?_ h).symm
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/AffineSpace/Independent.lean]:
```suggestion
    (h : s₂.affineCombination k (p ∘ e) w₂ = s₁.affineCombination k p w₁) :
    Set.indicator (s₂.map e) (extend e w₂ 0) = Set.indicator s₁ w₁ := by
  have hw₂e : extend e w₂ 0 ∘ e = w₂ := extend_comp e.injective _ _
  rw [← hw₂e, ← affineCombination_map] at h
  refine (ha.indicator_eq_of_affineCombination_eq s₁ (s₂.map e) _ _ hw₁ ?_ h.symm).symm
```
This order is what I would expect from the name `affineCombination_comp_embedding_eq` (same below).

File: Mathlib/LinearAlgebra/AffineSpace/Independent.lean [hunk 5]
```diff
@@ -351,6 +351,25 @@ lemma AffineIndependent.eq_zero_of_affineCombination_mem_affineSpan {p : ι →
   rw [Set.indicator_apply_eq_zero] at hi'
   exact hi' (Finset.mem_coe.2 hifs)
 
+lemma AffineIndependent.indicator_eq_of_affineCombination_comp_embedding_eq {ι₂ : Type*} {p : ι → P}
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/AffineSpace/Independent.lean]:
```suggestion
lemma AffineIndependent.indicator_eq_of_affineCombination_comp_embedding_eq {ι₂ : Type*} {p : ι → P}
```
I would expect "extend" to appear somewhere in the name.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean [hunk 6]
```diff
@@ -357,6 +357,115 @@ lemma closedInterior_subset_affineSpan {n : ℕ} {s : Simplex k P n} :
...
+    convert hw'01
+    convert Finset.univ.affineCombination_map (fs.orderEmbOfFin h).toEmbedding w s.points using 1
+    simp only [map_orderEmbOfFin_univ]
+    rw [Finset.affineCombination_indicator_subset _ _ (Finset.subset_univ fs)]
+    congr
+    rw [eq_comm, Set.indicator_eq_self, support_subset_iff]
+    simp only [mem_coe]
+    exact fun i ↦ Not.imp_symm (hi0 i)
+
+lemma affineCombination_mem_interior_face_iff_pos [IsOrderedCancelAddMonoid k] {n : ℕ}
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean]:
```suggestion
lemma affineCombination_mem_interior_face_iff_pos [IsOrderedAddMonoid k] {n : ℕ}
```
Merely for consistency with the lemma below.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean [hunk 7]
```diff
@@ -357,6 +357,115 @@ lemma closedInterior_subset_affineSpan {n : ℕ} {s : Simplex k P n} :
...
+    have hw'01 (i) : w' i ∈ Set.Ioo 0 1 := hii (fs.orderEmbOfFin h i) (by simp)
+    rw [← (s.face h).affineCombination_mem_interior_iff hw'] at hw'01
+    convert hw'01
+    convert Finset.univ.affineCombination_map (fs.orderEmbOfFin h).toEmbedding w s.points using 1
+    simp only [map_orderEmbOfFin_univ]
+    rw [Finset.affineCombination_indicator_subset _ _ (Finset.subset_univ fs)]
+    congr
+    rw [eq_comm, Set.indicator_eq_self, support_subset_iff]
+    simp only [mem_coe]
+    exact fun i ↦ Not.imp_symm (hi0 i)
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean]: This could probably be a useful separate lemma.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean:384]: I think it would be useful to define a general `Simplex.setInterior` that takes an arbitrary set `I : Set k` and define `Simplex.interior` and `Simplex.closedInterior` as special cases of that. Then both the `Ioo` and the `Icc` versions have the same proof (and Johan's lemma can be inlined again).
I have pushed some golfs at 012bab1f28ec07610ba061f6baa727e7356b8f4b. Feel free to cherry-pick.
There is certainly more golf potential in the proofs above, but I have to stop now.

Comment (jsm28) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean:384]: I've merged your changes.

Comment (jsm28) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean:384]: I'm not sure if there are any changes you're proposing that aren't included in the commit I've merged, but I suggest applying such changes directly to my branch.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean [hunk 8]
```diff
@@ -340,23 +358,95 @@ lemma closedInterior_subset_affineSpan {n : ℕ} {s : Simplex k P n} :
...
+      (∀ i ∈ fs, 0 < w i) ∧ (∀ i ∉ fs, w i = 0) := by
+  rw [s.affineCombination_mem_interior_face_iff_mem_Ioo h hw]
+  refine ⟨fun ⟨hii, hi0⟩ ↦ ⟨fun i hi ↦ (hii i hi).1, hi0⟩,
+    fun ⟨hii, hi0⟩ ↦ ⟨fun i hi ↦ ⟨hii i hi, ?_⟩, hi0⟩⟩
+  have hw' : ∑ i ∈ fs, w i = 1 := by
+    rw [← hw, Finset.sum_subset (Finset.subset_univ fs) fun j _ ↦ hi0 j]
+  rw [← hw']
+  have h1 : 1 < #fs := by have := NeZero.ne m; omega
+  obtain ⟨j, hj, hji⟩ := fs.exists_mem_ne h1 i
+  exact Finset.single_lt_sum hji hi hj (hii j hj) fun t ht _ ↦ (hii t ht).le
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean]:
```suggestion
  refine ⟨by grind, fun ⟨hii, hi0⟩ ↦ ⟨fun i hi ↦ ⟨hii i hi, ?_⟩, hi0⟩⟩
  rw [← hw, ← Finset.sum_subset (Finset.subset_univ fs) fun j _ ↦ hi0 j]
  obtain ⟨j, hj, hji⟩ := fs.exists_mem_ne (by grind [→ NeZero.ne]) i
  exact Finset.single_lt_sum hji hi hj (hii j hj) fun t ht _ ↦ (hii t ht).le
```
I can't think of a good way to merge this lemma with the next one, so I can only suggest some golfs.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean [hunk 9]
```diff
@@ -340,23 +358,95 @@ lemma closedInterior_subset_affineSpan {n : ℕ} {s : Simplex k P n} :
...
+    {w : Fin (n + 1) → k} (hw : ∑ i, w i = 1) :
+    Finset.univ.affineCombination k s.points w ∈ (s.face h).closedInterior ↔
+      (∀ i ∈ fs, 0 ≤ w i) ∧ (∀ i ∉ fs, w i = 0) := by
+  rw [s.affineCombination_mem_closedInterior_face_iff_mem_Icc h hw]
+  refine ⟨fun ⟨hii, hi0⟩ ↦ ⟨fun i hi ↦ (hii i hi).1, hi0⟩,
+    fun ⟨hii, hi0⟩ ↦ ⟨fun i hi ↦ ⟨hii i hi, ?_⟩, hi0⟩⟩
+  have hw' : ∑ i ∈ fs, w i = 1 := by
+    rw [← hw, Finset.sum_subset (Finset.subset_univ fs) fun j _ ↦ hi0 j]
+  rw [← hw']
+  exact Finset.single_le_sum (fun t ht ↦ (hii t ht)) hi
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean]:
```suggestion
  refine ⟨by grind, fun ⟨hii, hi0⟩ ↦ ⟨fun i hi ↦ ⟨hii i hi, ?_⟩, hi0⟩⟩
  rw [← hw, ← Finset.sum_subset (Finset.subset_univ fs) fun j _ ↦ hi0 j]
  exact Finset.single_le_sum (fun t ht ↦ (hii t ht)) hi
```

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean [hunk 10]
```diff
@@ -340,23 +358,95 @@ lemma closedInterior_subset_affineSpan {n : ℕ} {s : Simplex k P n} :
...
+        (fun i hi ↦ hi0 _ (by simpa using hi)) (fun _ ↦ rfl), hw]
+    have hw'01 (i) : w' i ∈ I := hii (fs.orderEmbOfFin h i) (by simp)
+    rw [← (s.face h).affineCombination_mem_setInterior_iff hw'] at hw'01
+    convert hw'01
+    convert Finset.univ.affineCombination_map (fs.orderEmbOfFin h).toEmbedding w s.points using 1
+    simp only [map_orderEmbOfFin_univ,
+      Finset.affineCombination_indicator_subset _ _ (Finset.subset_univ fs)]
+    congr
+    rw [eq_comm, Set.indicator_eq_self, support_subset_iff]
+    exact fun i ↦ Not.imp_symm (hi0 i)
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean]:
```suggestion
    simp only [map_orderEmbOfFin_univ, Finset.affineCombination_indicator_subset _ _ fs.subset_univ]
    congr
    grind [Set.indicator_eq_self, support_subset_iff]
```

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Basic.lean:384]: There were none left for this file, but some for the others and I also just suggested some more golfs. But I could not find any more streamlining for this one.

File: Mathlib/LinearAlgebra/AffineSpace/Independent.lean (hunk 5 above)
Comment (jsm28) [reply Mathlib/LinearAlgebra/AffineSpace/Independent.lean]: Renamed with `extend`.

**Review by chrisflav — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
